**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT 2n6052 1 2 3
* Model generated on Jan 24, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 17.7677
D1 1 3 dmodel
R1 2 4 5000
R2 4 3 50
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.88816 N=0.998882 XTI=2.99888
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=9.37751e-14 BF=309.482 NF=0.905675 VAF=30
+IKF=0.0555007 ISE=8.41825e-13 NE=1.33444 BR=1.90587
+NR=0.75 VAR=85.2787 IKR=0.099773 ISC=1e-13
+NC=1.99888 RB=11.138 IRB=0.213223 RBM=11.138
+RE=0.0890876 RC=1.85829 XTB=0.390737 XTI=3.005 EG=1.206
+CJE=3.23147e-10 VJE=2.81487 MJE=0.023 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=3.90662e-10
+VJC=0.95 MJC=0.271407 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=9.37751e-14 BF=309.482 NF=0.905675 VAF=30
+IKF=0.0555007 ISE=8.41825e-13 NE=1.33444 BR=1.90587
+NR=0.75 VAR=85.2787 IKR=0.099773 ISC=1e-13
+NC=1.99888 RB=11.138 IRB=0.213223 RBM=11.138
+RE=0.0890876 RC=1.85829 XTB=0.390737 XTI=3.005 EG=1.206
+CJE=3.23147e-10 VJE=2.81487 MJE=0.023 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.271407 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
